US09428465B2
Step 4. Preparation of N-hexyl-5-(hydroxymethyl)-3-methyl-2,4-dioxo-pyrimidine-1-carboxamide
5-[[tert-Butyl(dimethyl)silyl]oxymethyl]-N-hexyl-3-methyl-2,4-dioxo-pyrimidine-1-carboxamide (0.05 g, 0.13 mmol) was treated with AcOH/THF/H2O (3 mL, 4:1:1) at room temperature. The reaction was stirred for 22 hrs. Water (3 mL) was added, and the solution extracted with EtOAc/cyclohexane 1:1 (3×6 mL). The combined organic phases were concentrated to approx. 1 mL, which was then diluted with dichloromethane (1.5 mL) and injected onto a 4 g SiO2 column followed by purification by column chromatography using a Teledyne ISCO apparatus (cyclohexane:EtOAc 70:30) to afford the title compound (0.033 g, 88%) as a white solid. 1H NMR (400 MHz, CDCl3): δ 0.90 (t, J=6.8 Hz, 3H), 1.28-1.38 (m, 6H), 1.55-1.65 (m, 2H), 2.53 (bs, 1H), 3.38 (s, 3H), 3.39 (td, J=6.9, 5.8 Hz, 2H), 4.48 (s, 2H), 8.44 (bs, 1H), 9.26 (t, J=4.5 Hz, 1H). 13C NMR (101 MHz, CDCl3): δ 14.15, 22.66, 26.67, 28.06, 29.30, 31.53, 41.47, 59.62, 114.39, 133.97, 150.22, 152.31, 162.77. MS (ESI) m/z: 284 [M-H]+.

reactant | 5-[[tert-Butyl(dimethyl)silyl]oxymethyl]-N-hexyl-3-methyl-2,4-dioxo-pyrimidine-1-carboxamide | 0.13 mmol, 0.05 g | [Si](C)(C)(C(C)(C)C)OCC=1C(N(C(N(C1)C(=O)NCCCCCC)=O)C)=O | C19H35N3O4Si
reactant | AcOH THF H2O | 3 mL | CC(=O)O.C1CCOC1.O
solvent | Water | 3 mL | O | H2O
product | N-hexyl-5-(hydroxymethyl)-3-methyl-2,4-dioxo-pyrimidine-1-carboxamide | 0.033 g, 88% | C(CCCCC)NC(=O)N1C(N(C(C(=C1)CO)=O)C)=O | C13H21N3O4
